Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
L arm numbness and tingling

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: The patient is a ___ yo F PMHx HTN and cervical spondylosis
who was transferred to ___ ED after presenting to an OSH with
transient L arm numbness, tingling and weakness with NCHCT
revealing a small IPH.

On ___, pt noted tingling and numbness that started in
her left fingers and then spread up her arm to her shoulder and 
L
lower face (sparing the chest area). She also felt weak in her
hand. This lasted 2 minutes and then completely resolved. She
called her son who brought her to the ___ ED. She
was admitted and, per pt and son, had an unremarkable work-up.
Son recalls a normal ___ and cardiac work-up; pt denies ever
having an MRI. Pt was then discharged home in stable condition.

1 week ago, pt was exiting an elevator to do laundry and fell.
She hit her left knee and ankle and does not recall if she hit
her head. She did not black out.

On the day of presentation, pt was in her usual state of health
when again she noted tingling and numbness starting at her left
fingers and spreading to her left shoulder and lower face. She
also felt weak in her hand again. This lasted 2 minutes and then
resolved. She called her son who again brought her to the 
___ ED.

At ___, pt had a second episode with similar
symptoms. She also reported an episode of tingling in her left
lower quadrant. Vitals and labs (including coags and plts) were
unremarkable. ___ revealed a R cerebral convexity subarachnoid
hemorrhage and pt was then transferred to ___.

Of note, pt also reports having similar episodes in ___ and
___ she states she was diagnosed with TIAs at the time. She 
has
no history of stroke or seizures.

On neurologic review of systems, the patient denies headache,
lightheadedness, or confusion. Denies difficulty with producing
or comprehending speech. Denies loss of vision, blurred vision,
diplopia, vertigo, dysarthria, or dysphagia. Denies focal muscle
weakness, numbness. Denies bowel or bladder incontinence or
retention. 

On general review of systems, the patient denies fevers, chest
pain, palpitations, cough, nausea, vomiting, diarrhea,
constipation, abdominal pain, dysuria or rash.

 
Past Medical History:
HTN
Cervical spondylosis

 
Social History:
___
Family History:
Brother: HTN
No family history of seizures or strokes

 
Physical Exam:
PHYSICAL EXAMINATION
Vitals: 97.9 99 150/72 15 96% RA
General: NAD, resting in bed comfortably
HEENT: NCAT, no oropharyngeal lesions, neck supple
___: RRR
Pulmonary: CTAB
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema
Skin: +ecchymoses LLE at shin and knee area

Neurologic Examination:
- Mental Status - Awake, alert, oriented to person, place and
time. Inattentive and poor historian. Hypophonic. Speech is
fluent with full sentences, intact repetition, and intact verbal
comprehension. Content of speech demonstrates intact naming 
(high
and low frequency) and no paraphasias. Normal prosody. Mild
dysarthria. No evidence of hemineglect. No left-right agnosia.

- Cranial Nerves - PERRL 3->2 brisk. VF full to finger wiggling.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. +subtle L ptosis (son states her face always looks
like this). Hearing intact to finger rub bilaterally.  Palate
elevation symmetric. Trapezius strength ___ bilaterally. Tongue
midline.

- Motor - Normal bulk and tone. No drift. No tremor or 
asterixis.
L deltoid is 4+/5 and rest of motor examination has intact power
although it is difficult to have pt put forth full effort.

- Sensory - No deficits to light touch or pin bilaterally.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    1   1
R  2  2    2    1   1
Plantar response flexor bilaterally.

- Coordination - No dysmetria with finger to nose testing
bilaterally.

- Gait - Deferred.

 
Pertinent Results:
LAB DATA:
Coags at OSH: INR 1.0, ___ 10.2, PTT 23.7

EKG: NSR ___hanges or TWI

IMAGING:
___ (___): Right cerebral convexity parenchymal hemorrhage.
No demonstrable mass effect.

MRI Brain

FINDINGS: 
There is high signal on the FLAIR in the right parietal sulci, 
in the same distribution as the high density on the CT. This 
area demonstrates mild enhancement on the postcontrast images. 
This likely reflects a small amount of subarachnoid hemorrhage. 
There is no evidence of edema, masses, mass effect, midline 
shift or infarction. There is extensive periventricular and 
subcortical white matter hyperintensity on FLAIR imaging. 
Although nonspecific, this is usually attributed to chronic 
small vessel ischemia. The ventricles and sulci are mildly 
prominent but well within the range of normal for a patient of 
this age. There is no other abnormal enhancement after contrast 
administration. The lenses have been resected. 

IMPRESSION: 

1. Likely small collection of subarachnoid hemorrhage in the 
right parietal region. Chronic findings as noted above. No 
evidence of mass or infarction. 
 
Brief Hospital Course:
The patient is a ___ yo F PMHx HTN and cervical spondylosis who
was transferred to ___ ED after presenting to an OSH with
transient L arm numbness, tingling and weakness with NCHCT
revealing a small IPH. Neurologic examination non-focal. She 
described tingling
and numbness in the left hand that radiated to the left shoulder
and left lower facial. The left hand felt weak. Symptoms lasted 
2
minutes and then resolved. She was taken to ___ ED
whereupon she had another episode in their ED.  Of note had 
similar episodes on ___, as well as in ___ and ___, and 
also had a fall one week ago but did not hit her head or lose 
consciousness. 

Initial differential included symptoms related to acute bleed, 
possible TIA, simple partial seizures, not consistent with 
cervical etiology. We think most likely a convexal SAH leading 
to brief partial seizures.  MRI to evaluate further showed no
prior ischemic stroke, no aneursymal bleed, no GRE signal to 
implicate cerebral amyloid angiopathy.

COURSE:  
- Neurochecks/exam remained stable, check q4 in house.  No 
residual neuro deficit
- SBP goal less than 140.  She required intermittent IV 
hydralazine to maintain goal.
- Routine EEG was done and showed no seizure.  No AED was 
initiated. 
- MRI brain showed a small SAH as above.
- EEG showed bilateral intermittent frequent bursts of 
generalized, bifrontally predominant 2 Hz delta slowing but no 
epileptiform activity, no need to start antiseizure medications
  - ___ recommended home with ___ services given fall risk, 
deconditioning while in the hospital, also with given 
subarachnoid hemorrhage
- Aspirin was held and should continue to be held in the setting 
of brain bleed
- Verapimil was started and lisinopril stopped in order to 
decrease risk of SAH-associated vasospasm while still 
controlling blood pressure

 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Lisinopril 5 mg PO DAILY 

 
Discharge Medications:
1. Multivitamins 1 TAB PO DAILY 
2. Verapamil SR 120 mg PO Q24H 
RX *verapamil 120 mg 1 tablet(s) by mouth daily Disp #*60 Tablet 
Refills:*3

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
subarachnoid hemorrhage

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

___ were admitted to ___ with 
recurrent episodes of left hand tingling.  ___ first presented 
to an outside hospital where ___ had a CT scan of ___ head that 
showed concern for a small bleed in the brain so ___ were 
transferred here.  We sent ___ for an MRI which confirmed that 
___ had a small bleed called a subarachnoid hemorrhage (SAH) on 
the right side of the brain in a region that could lead to left 
hand/arm symptoms.   Blood in the brain can be very irritating 
and can cause seizures with brief symptoms like the type ___ 
report.  We did an EEG to evaluate for seizure and ___ had none. 
 ___ developed a headache while here and we treated ___ with low 
doses of pain medications.

We think that your symptoms will improve with good blood 
pressure control as the bleed in your head resolves.  Your blood 
pressure goal in the future is LESS THAN 140 systolic.  ___ 
should avoid aspirin and blood thinners.  If ___ have any 
recurrence or worsening of symptoms after ___ are discharged, 
___ should return to the Emergency Room for evaluation.
 
Followup Instructions:
___